US07943619B2
b) 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
To a solution of 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (69.4 mg, 0.21 mmol) in DMF (1.1 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (74.1 mg, 0.23 mmol), N,N-diisopropyl ethyl amine (179 μL, 1.05 mmol) and 2-amino-2-methyl-1-propanol (20.6 mg, 0.23 mmol). The resulting reaction mixture was stirred for 30 min at room temperature and diluted with water. The mixture was then extracted with ethyl acetate and the combined organic layers washed with aqueous sodium carbonate (saturated) and dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=1:0 to 3:7) afforded the title compound (74 mg, 88%) which was obtained as an off white solid. MS: m/e=402.4 [M+H]+.

reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid | 0.21 mmol, 69.4 mg | FC=1C=CC(=NC1)C1=NOC(=C1COC1=CC=C(N=N1)C(=O)O)C | C15H11FN4O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.23 mmol, 74.1 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.05 mmol, 179 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-2-methyl-1-propanol | 0.23 mmol, 20.6 mg | NC(CO)(C)C | C4H11NO
solvent | DMF | 1.1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 74 mg, 88% | OCC(C)(C)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F | C19H20FN5O4
